US07582703B2
A 3 l reactor was charged under nitrogen with 11 of vinyl magnesium bromide in THF (tetrahydrofuran) and 184 g of 4-bromobutyl-dimethyl-ethoxysilane were added slowly at room temperature. The mixture was then refluxed at 70° C. for 16 h. After cooling on ice, the mixture was quenched with 407 g of a 20% HBr (w/w) solution, after which it was stirred for another 1.5 h. The THF layers were separated from the aqueous layers and neutralized with aq. sodium hydrogen carbonate solution. The THF was evaporated and the residue was distilled in the presence of 1 g Pt/C to obtain 135.8 g (79.8%) of pure 4-bromobutyl-dimethyl-vinylsilane

reactant | vinyl magnesium bromide | C(=C)[Mg]Br
reactant | 4-bromobutyl-dimethyl-ethoxysilane | 184 g | BrCCCC[Si](OCC)(C)C | C8H19BrOSi
solvent | THF | O1CCCC1 | C4H8O
product | 4-bromobutyl-dimethyl-vinylsilane | 135.8 g, 79.8% | BrCCCC[Si](C=C)(C)C | C8H17BrSi
